US09084794B2
(+)-4-cyclopropyl-9-(1-(2-fluoro-4-(quinolin-7-yl)phenyl)ethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 9-(1-(4-bromo-2-fluorophenyl)ethyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one (0.438 mmol) in 1,4-dioxane (2 mL) was treated with quinolin-7-ylboronic acid (0.481 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.022 mmol), and 2M aq potassium carbonate (1.313 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture was irradiated in a Biotage Initiator Microwave at 130° C. for 20 min. The resulting black mixture was diluted with water (50 mL) and extracted three times with dichloromethane. The aqueous layer was further diluted with brine (50 mL) and was then extracted with tetrahydrofuran. The organic layers were combined and were treated with Silicycle Si-thiol (50 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (4-10% methanol/dichloromethane) followed by resolution of the product by chiral HPLC (Lux Cellulose-2 column, acetonitrile:methanol 85:15) afforded the title compound as a white solid (50 mg, 23%). MS(ES)+ m/e 460.2 [M+H]+, >99% ee, αD=+38 deg (c=0.02, acetonitrile:methano185:15).

reactant | 9-(1-(4-bromo-2-fluorophenyl)ethyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 0.438 mmol | BrC1=CC(=C(C=C1)C(C)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H24BrFN2O2
reactant | quinolin-7-ylboronic acid | 0.481 mmol | N1=CC=CC2=CC=C(C=C12)B(O)O | C9H8BNO2
reactant | potassium carbonate | 1.313 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.022 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-4-cyclopropyl-9-(1-(2-fluoro-4-(quinolin-7-yl)phenyl)ethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 50 mg, 23% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C28H30FN3O2
